US04868132
4-(3-chloropropoxy)-1-(2-aminopropyl)benzene
A 1.36 g sample of 4-(3-chloropropoxy)phenylacetone, prepared above, was dissolved in 200 mL of methanol. To this was added 7.71 g of ammonium acetate followed by 0.76 g sodium cyanoborohydride with stirring. After 5 hours, the solvent was evaporated in vacuo, the residue was dissolved in 150 mL diethylether and 200 ml of 1N hydrochloric acid solution. The aqueous phase was separated and washed with a second portion of diethylether, basified to a pH of 10-12 with 6N sodium hydroxide, and extracted with three, 100 mL portions of diethylether. The basic ether extracts were combined, dried, and evaporated to dryness in vacuo to yield1.11 g of a yellow oil.

reactant | 4-(3-chloropropoxy)phenylacetone | ClCCCOC1=CC=C(C=C1)CC(C)=O | C12H15ClO2
reactant | ammonium acetate | 7.71 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 0.76 g | C(#N)[BH3-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 4-(3-chloropropoxy)-1-(2-aminopropyl)benzene | ClCCCOC1=CC=C(C=C1)CC(C)N | C12H18ClNO
